US07713994B2
A solution of 2-(methyl-4-nitroanilino)ethanol (0.20 g, 1.0 mmol) in ethanol (25 mL) is hydrogenated for two hours at atmospheric pressure over 10% Pd/C. The mixture is filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 2-[(4-amino-phenyl)-methyl-amino]-ethanol as a dark oil, which solidified upon standing.

reactant | 2-(methyl-4-nitroanilino)ethanol | 1.0 mmol, 0.20 g | CN(C1=CC=C(C=C1)[N+](=O)[O-])CCO | C9H12N2O3
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-[(4-amino-phenyl)-methyl-amino]-ethanol | NC1=CC=C(C=C1)N(CCO)C | C9H14N2O
